US04349548
Step A: Preparation of trans-6-(N-ethyl-N-chloroacetylamino)-6,7,8,9-tetrahydro-5H-benzocyclo hepten-5-ol
A solution of 0.75 ml (0.022 m) of chloroacetyl chloride in 10 ml of methylene chloride was added dropwise to a solution of 2.3 g (0.0112 m) of trans-6-(N-ethylamino)-6,7,8,9-tetrahydro-5H-benzo cyclohepten-5-ol and 3.2 ml (0.023 m) of triethylamine in 90 ml of methylene chloride. The mixture was stirred 1/2 hour, water is added, and the layers are separated. The organic layer was dried over anhydrous sodium sulfate and concentrated to dryness in vacuo.

reactant | chloroacetyl chloride | 0.75 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | trans-6-(N-ethylamino)-6,7,8,9-tetrahydro-5H-benzo cyclohepten-5-ol | 2.3 g | C(C)N[C@H]1[C@@H](C2=C(CCC1)C=CC=C2)O | C13H19NO
reactant | triethylamine | 3.2 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
product | trans-6-(N-ethyl-N-chloroacetylamino)-6,7,8,9-tetrahydro-5H-benzocyclo hepten-5-ol | C(C)N(C(CCl)=O)[C@H]1[C@@H](C2=C(CCC1)C=CC=C2)O | C15H20ClNO2
